US08445674B2
B) 4-[(R)-4-(3,4-Dichloro-phenyl)-3-methyl-2-oxo-piperazin-1-yl]-butyric acid (62% ee)
0.69 ml (9.00 mmol) of trifluoroacetic acid was added to a cooled solution (0° C.) of 0.28 g (0.60 mmol) 4-[[(R)-2-(3,4-dichloro-phenylamino)-propionyl]-(2,2-dimethoxy-ethyl)-amino]-butyric acid tert-butyl ester (62% ee) in 6 ml of dichloromethane. After 30 min the ice bath was removed, then after 1 h, 0.49 ml (3.00 mmol) of triethylsilane was added. After 16 h the reaction mixture was cooled to 0° C. and treated with 1.25 ml (9.00 mmol) of triethylamine, then after 15 min partitioned between Et2O (3×)/aqueous 10% KHSO4, the organic phases were washed with aqueous 10% KHSO4 and aqueous 10% NaCl, dried over Na2SO4 and evaporated. The residue was precipitated (dichloromethane/n-pentane) to give 0.198 g (96%) of the titled compound as brown viscous oil. MS: 345.07 (MH+, 2Cl).

reactant | trifluoroacetic acid | 9.00 mmol, 0.69 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[[(R)-2-(3,4-dichloro-phenylamino)-propionyl]-(2,2-dimethoxy-ethyl)-amino]-butyric acid tert-butyl ester | 0.60 mmol, 0.28 g | C(C)(C)(C)OC(CCCN(CC(OC)OC)C([C@@H](C)NC1=CC(=C(C=C1)Cl)Cl)=O)=O | C21H32Cl2N2O5
reactant | triethylsilane | 3.00 mmol, 0.49 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylamine | 9.00 mmol, 1.25 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-[(R)-4-(3,4-Dichloro-phenyl)-3-methyl-2-oxo-piperazin-1-yl]-butyric acid | 0.198 g, 96% | ClC=1C=C(C=CC1Cl)N1[C@@H](C(N(CC1)CCCC(=O)O)=O)C | C15H18Cl2N2O3
